US07465815B2
3,3-Dimethyl-N-(3-hydroxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)butanamide
Using 3,3-dimethyl-N-(2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide obtained in Reference Example 342, the title compound was synthesized in the same manner as in Example 234. Yield: 82%. Melting point: 217-218° C. (THF-hexane).

reactant | 3,3-dimethyl-N-(2,2,4,6-tetramethyl-3-oxo-2,3-dihydro-1-benzofuran-5-yl)butanamide | CC(CC(=O)NC=1C(=CC2=C(C(C(O2)(C)C)=O)C1C)C)(C)C | C18H25NO3
solvent | THF hexane | C1CCOC1.CCCCCC
product | 3,3-Dimethyl-N-(3-hydroxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)butanamide | Yield: 82% | CC(CC(=O)NC=1C(=CC2=C(C(C(O2)(C)C)O)C1C)C)(C)C | C18H27NO3
